US07405231B2
iii) 2-{1-[4-(4-{2-[(E)-2-(-4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-imidazol-2-yl}-ethanol
13.0 mg (0.50 mmol) 95% sodium hydride were given to a solution of 130 mg (0.50 mmol) 4-{4-[2-(2-Hydroxyethyl)-imidazol-1-yl]-butyl}-phenol in 4.0 ml DMF and stirred for 15 min. 168 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 10 ml water the resulting precipitate was washed twice with water, 10 ml methanol/water 1:1 and with diethyl ether. The residue was purified by chromatography on silica gel (eluent: ethyl acetate/methanol 9:1) to yield 99 mg colorless powder that was further purified by HPLC-MS.

reactant | sodium hydride | 0.50 mmol, 13.0 mg | [H-].[Na+]
reactant | 4-{4-[2-(2-Hydroxyethyl)-imidazol-1-yl]-butyl}-phenol | 0.50 mmol, 130 mg | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 168 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | water | 10 ml | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 2-{1-[4-(4-{2-[(E)-2-(-4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-imidazol-2-yl}-ethanol | 99 mg | FC(S(=O)C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO)(F)F | C28H28F3N3O4S
